US05374646
2-(3,5-Dimethyl-2-benzofuranyl)benzonitrile
A solution of 1-(2-hydroxy-5-methylphenyl)ethanone (1 g) in DMF (7 ml) was added to a solution of sodium methoxide (0.39 g) in ethanol (7 ml). After about 10 min a solution of 2-(bromomethyl)benzonitrile (1.3 g) in DMF (7 ml) was added and the solution heated to 110° C. After 2 h further sodium methoxide (0.39 g) was added and heating at 110° C. continued. After a further 30 min, the reaction was cooled to room temperature and the ethanol evaporated. The solution was poured into water/ice (200 ml) and extracted into ethyl acetate (4×30 ml). The combined organic extracts were washed with water (4×20 ml) and dried. Filtration and evaporation gave a yellow oil which was then dissolved in dichloromethane (2 ml) and methanol (30 ml). Concentration gave a solid which was collected and washed with further methanol to give the title compound as a white solid (0.53 g).

reactant | 1-(2-hydroxy-5-methylphenyl)ethanone | 1 g | OC1=C(C=C(C=C1)C)C(C)=O | C9H10O2
reactant | sodium methoxide | 0.39 g | C[O-].[Na+]
reactant | 2-(bromomethyl)benzonitrile | 1.3 g | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
reactant | sodium methoxide | 0.39 g | C[O-].[Na+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | methanol | 30 ml | CO | CH4O
product | 2-(3,5-Dimethyl-2-benzofuranyl)benzonitrile | 0.53 g | CC1=C(OC2=C1C=C(C=C2)C)C2=C(C#N)C=CC=C2 | C17H13NO
